US05324726
(R)-N-(2,3-Dihydro-1H-inden-5-yl)N'-(2,3-dihydro-1-methyl-2-oxo-5-phenyl-1H-1,4-benzodiazepin-3-yl)-urea
(R)-1,3-Dihydro-1-methyl-3-(p-nitrophenyloxycarbonyl)amino-5-phenyl-2H-1,4-benzodiazepin-2-one (200 mg. 0.46 mmole) was dissolved in 2 ml of freshly degassed, dry N,N-dimethylformamide (DMF) and treated with 1 ml of DMF containing 74 mg (0.50 mmole) of 5-aminoindane and 97.4 μl of triethylamine. The resulting solution was stirred under nitrogen for four hours. The reaction mixture was poured into 75 ml of water and extracted with ethyl acetate (3×40 ml). The combined organic extracts were washed with 1N sodium hydroxide solution (4×100 ml), 10% citric acid solution (2×100 ml), and brine. The organic extracts were then dried and the residue was plug-filtered through a six inch silica gel column. The eluate was concentrated and the residue was crystallized from a methylene chloride-ether mixture to give the title compound: mp 156°-158° C. NMR: Structure is consistent with the spectrum.

reactant | (R)-1,3-Dihydro-1-methyl-3-(p-nitrophenyloxycarbonyl)amino-5-phenyl-2H-1,4-benzodiazepin-2-one | 0.46 mmole, 200 mg | CN1C([C@@H](N=C(C2=C1C=CC=C2)C2=CC=CC=C2)NC(=O)OC2=CC=C(C=C2)[N+](=O)[O-])=O | C23H18N4O5
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
reactant | DMF | 0.50 mmole, 1 ml, 74 mg | CN(C=O)C | C3H7NO
reactant | 5-aminoindane | NC=1C=C2CCCC2=CC1 | C9H11N
reactant | triethylamine | 97.4 μl | C(C)N(CC)CC | C6H15N
solvent | water | 75 ml | O | H2O
product | (R)-N-(2,3-Dihydro-1H-inden-5-yl)N'-(2,3-dihydro-1-methyl-2-oxo-5-phenyl-1H-1,4-benzodiazepin-3-yl)-urea | C1CCC2=CC(=CC=C12)NC(=O)N[C@H]1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)C)=O | C26H24N4O2
